US04731367
300 mg (0.644 mmol) of 3-(2-iodo-6-methyl-8α-ergolinyl)-1,1-diethylurea is heated, after adding 0.169 ml (0.709 mmol) of tri-m-butylamine, in 4 ml of benzyl alcohol, combined under a carbon monoxide atmosphere with 7 mg (0.031 mmol) of palladium(II) acetate, and kept at 100°-110° C. for 2.5 hours under vigorous agitation. After cooling to room temperature, the reaction solution is diluted with ethyl acetate and extracted with saturated sodium bicarbonate solution and saturated sodium chloride solution. After drying over magnesium sulfate, the ethyl acetate is removed by distillation under reduced pressure and then the benzyl alcohol is distilled off under a high vacuum. By column chromatography on 150 g of silica gel in a system of dichloromethane/ethanol=10:1 and recrystallization from ethanol/hexane, 166 mg of 8α-(3,3-diethylureido)-6-methylergoline-2-carboxylic acid benzyl ester is produced from the crude product (54.5%), mp 226°-229° C.

reactant | 3-(2-iodo-6-methyl-8α-ergolinyl)-1,1-diethylurea | 0.644 mmol, 300 mg | IC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C20H27IN4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzyl alcohol | 4 ml | C(C1=CC=CC=C1)O | C7H8O
catalyst | palladium(II) acetate | 0.031 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8α-(3,3-diethylureido)-6-methylergoline-2-carboxylic acid benzyl ester | 166 mg | C(C1=CC=CC=C1)OC(=O)C1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(=O)N(CC)CC)C | C28H34N4O3
